.subckt nor2 a b z
MPU1 1 a vdd vdd PENH sw=10 sl=1
MPU2 z b 1 vdd PENH sw=10 sl=1
MPD1 z b 0 0 NENH sw=8 sl=1
MPD2 z a 0 0 NENH sw=8 sl=1
.ends

.subckt xor2 a b z
Xnorr a b p nor2
MPU1 q a vdd vdd PENH sw=4 sl=1
MPU2 z p q vdd PENH sw=4 sl=1 
MPD1 z a r 0 NENH sw=2 sl=1
MPD2 r b 0 0 NENH sw=2 sl=1
MPU3 q b vdd vdd PENH sw=4 sl=1  
MPD3 z p 0 0 NENH sw=2 sl=1
.ends

.subckt nand2 a b z
MPD1 z a 1 0 NENH sw=8 sl=1
MPD2 1 b 0 0 NENH sw=8 sl=1
MPU1 z a vdd vdd PENH sw=10 sl=1
MPU2 z b vdd vdd PENH sw=10 sl=1
.ends


.subckt nand3 a b c z
MPD1 z a 1 0 NENH sw=8 sl=1
MPD2 1 c 2 0 NENH sw=8 sl=1
MPD3 2 b 0 0 NENH sw=8 sl=1

MPU1 z a vdd vdd PENH sw=10 sl=1
MPU2 z c vdd vdd PENH sw=10 sl=1
MPU3 z b vdd vdd PENH sw=10 sl=1
.ends

.subckt FA a b ci s co
Xannd a b 1 nand2
Xannd1 a ci 2 nand2
Xannd2 b ci 3 nand2
Xannd3 1 2 3 co nand3
Xxorr1 a b 4 xor2
Xxorr2 4 ci s xor2
.ends

.subckt ADDER4 a3 a2 a1 a0 b3 b2 b1 b0 s4 s3 s2 s1 s0
Xbit0 a0 b0 0 s0 c0 FA
Xbit1 a1 b1 c0 s1 c1 FA
Xbit2 a2 b2 c1 s2 c2 FA
Xbit3 a3 b3 c2 s3 s4 FA
.ends
